2145-07-08 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-7-7**] 08:27 AM
 TRANSTHORACIC ECHO - At [**2145-7-7**] 02:00 PM
   [**7-7**]
   -Pt off BiPAP and tolerating O2 via NC
   -Advanced diet to soft mech / Low sodium (2g)Heart Healthy / Diabetic
   diet
   -Pt given 120mg Lasix this AM
   -Warfarin reduced to 5mg daily per pharmacy reqs due to azythromycin
   interaction.
   -Activity advanced to OOB to Chair
   -BiPAP for sleep.
   [**7-8**]
   -Pt adament about leaving AMA.  Notified Dr. [**Last Name (STitle) **] about Pts
   wishes.  Pt contact[**Name (NI) **] ambulance who refused to transport Pt home.  Pt
   ultimately agreed to stay and revisit in AM.
   -0430 Pts wife at bedside. Pt wants to leave AMA. Paged on call psych
   to discuss eval for capacity.  Psych to come see pt in 60-90 minutes to
   eval for capacity.
   -0515 Psych saw Pt.  He refused capacity evaluation and therefore is
   deemed not to have capacity.  Psych rec 5mg haldol IV/2mg Ativan IV/1mg
   cogentin IV PRN for aggitation.  C/L Attending to round on Pt in AM.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-7-7**] 12:00 PM
   Azithromycin - [**2145-7-7**] 01:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-7-7**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-8**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 98 (73 - 108) bpm
   BP: 146/84(101) {91/41(53) - 181/84(102)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
             Total In:
                                                                  1,349 mL
                                                                    206 mL
   PO:
                                                                    290 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    559 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                    725 mL
   Urine:
                                                                  4,810 mL
                                                                    725 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,461 mL
                                                                   -519 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 772) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 6 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.36/71/84.[**Numeric Identifier 117**]/37/10
   Ve: 3.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General
 alert, oriented
   CV
 RRR, 1/6 systolic ejection murmur loudest at LUSB
   Resp
 wheezing throughout
   Abdoment
 soft, obese, non-tender
   Extremities
 chronic venous stasis changes in bilateral lower
   exremities
   Labs / Radiology
   100 K/uL
   9.9 g/dL
   170 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.0 mEq/L
   16 mg/dL
   80 mEq/L
   121 mEq/L
   31.9 %
   3.5 K/uL
        [image002.jpg]
   **Labs from [**7-8**] still pending.
                             [**2145-7-7**]  03:56 AM
                             [**2145-7-7**]  06:45 AM
                             [**2145-7-7**]  10:08 AM
                             [**2145-7-7**]  12:53 PM
                             [**2145-7-7**]  06:07 PM
   WBC
   3.5
   Hct
   31.9
   Plt
   100
   Cr
   0.7
   0.9
   0.9
   TropT
   <0.01
   TCO2
   40
   42
   Glucose
   103
   120
   170
   Other labs: PT / PTT / INR:33.9/36.0/3.4, CK / CKMB /
   Troponin-T:66//<0.01, Differential-Neuts:91.3 %, Lymph:6.1 %, Mono:2.1
   %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Echo ([**7-7**]) -- IMPRESSION: Technically suboptimal study. Mild symmetric
   left ventricular hypertrophy with preserved global biventricular
   systolic function. Right ventricular cavity enlargement with free wall
   hyopokinesis. Normal functioning aortic valve prosthesis. ?Moderate
   mitral regurgitation.
   If clinically indicated, a TEE would be better able to define the
   severity of mitral regurgitation.
   Assessment and Plan
   #altered mental status
 pt became adamant about wanting to leave AMA
   overnight.  Ambulance was called but refused to transport patient
   home.  Psych was consulted but pt refused capacity evaluation and was
   thus determined to not have capacity.
   - psych recommends serum and urine tox screens
   - psych also recommending 5mg haldol, 2mg ativan, 1mg cogentin IV for
   agitation
   - psych consult/liaison attending will see patient later this morning
   # dyspnea
 pt still very wheezy on exam.  Pt subjectively says that
   his dyspnea is improving.  No longer on BiPAP (used it very briefly
   during the night).  Had an episode of sats dropping to 70
s during the
   night when he took off BiPAP and stoof up to use the restroom.
   - will continue albuterol/atrovent nebs PRN (increased to q4hr PRN
   yesterday) and advair [**Hospital1 **]
   - pt has not gotten any lasix since yesterday
   - hold off on antibiotics as no leukocytosis, no significant sputum
   production per RT, and no fever presently.
   - GOAL O2 90-92%, wean FiO2 to keep O2 <92%.
   - cycle cardiac enzymes.
   - TTE in AM.
   - 1.2L fluid restriction.
   - low salt diet.
   .
   # hyponatremia - likely [**2-15**] volume overload.  improved slightly with
   diuresis (114->117->119).  no obvious intracranial process based on
   neuro exam.  no obvious intrathoracic malignancy, though has extensive
   smoking history.  at present alert, answers questions, and follows
   commands.
   - hold off on hypertonic saline for now.
   - check urine lytes, osm, serum osm to evaluate for SIADH.
   - diurese as above and trend sodium.
   - check TSH.
   .
   # DM - continue SSI here.  on novolin 90U QAM at home per wife, per
   pharmacy closest analog would be 70/30, so will split dose [**Hospital1 **] for now
   and add humalog SSI.
   - trend FSBS on steriods.
   - diabetic diet.
   .
   # CHF - s/p AVR in [**2134**] (metal valve, st. [**Male First Name (un) **], @ [**Hospital1 12**] x2).  currently
   volume up.  most likely [**2-15**] dietary and fluid restriction
   non-compliance.  current weight is 142 kg (314 lb), and dry weight is
   ~270 lbs.
   - diurese as above.
   - daily weights, strict i/o's, low salt diet.
   - fluid restrict to 1.2L.
   - TTE in AM.
   - cycle CE, and treat with aspirin until rules out.
   - continue lisinopril.
   - unclear why he is not on a beta-blocker, but will continue diltiazem
   in divided doses so it can be titrated up for goal HR 60s.
   - obtain OSH records from cardiologist at [**Hospital3 **] Dr. [**Last Name (STitle) 7275**] in AM.
   - hold coumadin given supratherapeutic INR, goal 2.5-3.5 for mechanical
   aortic valve (confirm with cardiologist in AM).
   - check digoxin level.
   .
   # COPD - per wife, on 2L NC at home, but has been using 5L NC for past
   week [**2-15**] dyspnea.  unclear why he is not on standing inhaled steroid.
   although his clinical history is more consistent with CHF exacerbation,
   his modest BNP argues against this, and he remains fairly roncherous on
   exam, so will treat for both COPD and CHF as follows:
   - start advair [**Hospital1 **].
   - continue albuterol/atrovent nebs/mdi per RT.
   - check sputum culture.
   - check urine legionella.
   - transition to oral prednisone 60mg in AM.
   - hold off on abx given lack of leukocytosis, fever, would consider
   levo or azithro for anti-inflammatory but levoquin interferes with INR,
   and azithromycin can exacerbate hyponatremia.
   .
   # lower extremity skin changes - no erythema, but +warmth.  more
   consisent with chronic venous changes presently, though does have some
   areas of skin breakdown which are at risk for infection.
   - wound care [**Name8 (MD) 77**] rn.
   - diurese as above.
   - hold off on antibiotics for now, and discuss in AM.
   - teds stockings.
   - keep LE elevated.
   .
   # psych - per wife, pt with h/o schizophrenia and psychotic disorder,
   with frequent episodes of leaving hospital AMA.
   - continue home regimen of trazadone 600mg po qhs, geodone 80mg [**Hospital1 **].
   .
   # FEN: No IVF, replete lytes prn, cardiac, diabetic diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-7-7**] 02:35 AM
   18 Gauge - [**2145-7-7**] 02:35 AM
   Prophylaxis:
   DVT: pneumoboots; pt is on coumadin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: patient and his wife, [**Name (NI) 2668**] [**Name (NI) 7276**],
   [**Telephone/Fax (1) 7277**], cell [**Telephone/Fax (1) 7278**]
   Code status: Full code
   Disposition:

2145-07-08 11:57:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2145-7-7**] 08:27 AM
 TRANSTHORACIC ECHO - At [**2145-7-7**] 02:00 PM - large hypokinetic RV
   free wall, mod MR, relatively [**Name2 (NI) 7293**] EF, [**Name (NI) **] function normal
   agitation overnight, asking to leave AMA- able to be redirected
   Psych consulted.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-7-7**] 12:00 PM
   Azithromycin - [**2145-7-8**] 09:55 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-8**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 99 (75 - 108) bpm
   BP: 131/65(80) {91/41(53) - 181/84(102)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
             Total In:
                                                                  1,349 mL
                                                                    552 mL
   PO:
                                                                    290 mL
                                                                    210 mL
   TF:
   IVF:
                                                                    559 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                  4,810 mL
                                                                  1,740 mL
   Urine:
                                                                  4,810 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,461 mL
                                                                 -1,189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (320 - 320) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 6 cmH2O
   FiO2: 30%
   SpO2: 98%
   ABG: ///37/
   Ve: 3.7 L/min
   Physical Examination
   Gen; somnolent but arousable
   HEENT: o/p dry, lac near left ear
   CV: RR
   Chest: loud diffuse exp wheezes with abd exp rounding
   Abd: obese soft NT
   Ex: severe chronic venous stasis changes, 1 cm ulcer in right leg,
   stable
   Neuro: somnolent, able to wake
   Labs / Radiology
   9.3 g/dL
   108 K/uL
   241 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.1 mEq/L
   20 mg/dL
   84 mEq/L
   126 mEq/L
   29.4 %
   3.9 K/uL
        [image002.jpg]
                             [**2145-7-7**]  03:56 AM
                             [**2145-7-7**]  06:45 AM
                             [**2145-7-7**]  10:08 AM
                             [**2145-7-7**]  12:53 PM
                             [**2145-7-7**]  06:07 PM
                             [**2145-7-8**]  05:53 AM
   WBC
   3.5
   3.9
   Hct
   31.9
   29.4
   Plt
   100
   108
   Cr
   0.7
   0.9
   0.9
   0.9
   TropT
   <0.01
   TCO2
   40
   42
   Glucose
   103
   120
   170
   241
   Other labs: PT / PTT / INR:26.9/36.0/2.6, CK / CKMB /
   Troponin-T:66//<0.01, Differential-Neuts:91.3 %, Lymph:6.1 %, Mono:2.1
   %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, Ca++:8.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   1.       Resp Distress: Mixed picture with right heart failure, some
   left heart failure, and COPD exacberation. On Medrol, IV abx
   Cetriaxone, Azithro, nebs, BIPAP intermittently. Echo showed sever Rv
   dysfunction and overload. Ruled out DFA. Goal another 1-2 L neg as BP
   tolerates and watching Na
   2.       HypoNa: likely total body volume overloaded but low effect
   circ volume
Rising nicely with diuresis- check this afternoon as we do
   not want to rise too quickly. DM: will start 70/30 with sliding scale
   and watch closely
   3.       Anticoag: need coumadin
 goal inr 2.5 to 3.5
   4.       LE venous stasis and wound care consult
   5.       Agitation: known Pyshc disprder- redirected thus far, psych
   following. Does not have true capacity at present.
   ICU Care
   Nutrition: diabetic diet, fluid restrict
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-7-7**] 02:35 AM
   18 Gauge - [**2145-7-7**] 02:35 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  with op and wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35

2145-07-09 05:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - goal UOP 2 L negative
   - nurse called for blood in urine
   - blood sugars have been running high - increased sliding scale insulin
   - pt saying the he wants to leave AMA - however, after risks are
   explained to him, he agrees to stay
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-8**] 09:55 AM
   Ceftriaxone - [**2145-7-8**] 12:00 PM
   Infusions:
   Other ICU medications:
   Albuterol Inhaler
   Albuterol 0.083% Neb Soln
   Aspirin
   Azithromycin
   Cefpodoxime
    Proxetil
   Diltiazem
   Digoxin
   Docusate Sodium
   Fluticasone-Salmeterol Diskus (250/50) Fluocinonide 0.05% Ointment
   Insulin
   Ipratropium Bromide MDI
   Ipratropium Bromide Neb
   Lisinopril
   MethylPREDNISolone Sodium Succ  Senna
   Warfarin Ziprasidone
   traZODONE
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-9**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 97 (59 - 99) bpm
   BP: 144/65(83) {104/55(68) - 159/101(104)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
                  Total In:
                                                                  1,120 mL
                                                                    140 mL
   PO:
                                                                    728 mL
                                                                    140 mL
   TF:
   IVF:
                                                                    392 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                  1,860 mL
   Urine:
                                                                  3,385 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,266 mL
                                                                 -1,720 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///43/
   Physical Examination
   General: speaking in [**3-17**] word sentences, tachypneic, uncomfortable.
   poor hygeine.
   HEENT: s/p left ear trauma (missing lower half, happened "years ago"),
   MMM, oropharynx clear
   Neck: supple, unable to assess JVP 2/2 habitus, no LAD
   Lungs: bilateral wheezing, ronchi, +bronchial breath sounds anteriorly.
   CV: Regular rate, normal S1 + S2, no appreciable murmurs, rubs,
   gallops.
   Abdomen: obese, soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, ?1+ pulses, [**1-15**]+ edema to knees, chronic venous stasis
   changes, with multiple <1cm areas of drainage, non-purulent.
   Labs / Radiology
   102 K/uL
   9.1 g/dL
   154 mg/dL
   0.8 mg/dL
   43 mEq/L
   5.3 mEq/L
   21 mg/dL
   89 mEq/L
   134 mEq/L
   30.9 %
   2.1 K/uL
        [image002.jpg]
                             [**2145-7-7**]  03:56 AM
                             [**2145-7-7**]  06:45 AM
                             [**2145-7-7**]  10:08 AM
                             [**2145-7-7**]  12:53 PM
                             [**2145-7-7**]  06:07 PM
                             [**2145-7-8**]  05:53 AM
                             [**2145-7-8**]  04:58 PM
                             [**2145-7-9**]  03:36 AM
   WBC
   3.5
   3.9
   2.1
   Hct
   31.9
   29.4
   30.9
   Plt
   100
   108
   102
   Cr
   0.7
   0.9
   0.9
   0.9
   0.9
   0.8
   TropT
   <0.01
   TCO2
   40
   42
   Glucose
   103
   120
   170
   241
   217
   154
   Other labs: PT / PTT / INR:24.0/27.2/2.3, CK / CKMB /
   Troponin-T:66//<0.01, Differential-Neuts:91.3 %, Lymph:6.1 %, Mono:2.1
   %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 LEUKOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   48 y/o male with respiratory distress, likely [**2-15**] a combination of COPD
   exacerbation and CHF
   # dyspnea
No longer on BiPAP (used it very briefly during the night).
   Had an episode of sats dropping to 70
s during the night when he took
   off BiPAP and stoof up to use the restroom.  Dyspnea is likely
   multifactorial, with a COPD exacerbation component and a CHF
   component.  Each will be addressed individually.
   # COPD
 pt will having dyspnea and wheezing on exam.
   - will continue albuterol/atrovent nebs PRN (increased to q4hr PRN
   yesterday) and advair [**Hospital1 **]
   - currently on azithromycin and ceftriaxone
 will keep them IV since
   patient is still with some respiratory distress.  Consider switching
   abx to PO tomorrow.  Coumadin level has been adjusted [**2-15**] azithromycin
   - pt still on methylprednisolone IV
 since patient is still with some
   respiratory distress today, will keep steroids IV at this point and
   consider switching to PO tomorrow
   # CHF - s/p AVR in [**2134**] (metal valve, st. [**Male First Name (un) **], @ [**Hospital1 12**] x2).  currently
   volume up.  most likely [**2-15**] dietary and fluid restriction
   non-compliance
   - pt has not gotten any lasix since yesterday, but pt
s I/O
s are -3.5L
   over 24 hrs
   - will off on further lasix for now and monitor pt
s I/O
s over the
   afternoon
   - continue 1.2L fluid restriction and low salt diet.  Continue to
   monitor daily weights
   - will check on OSH records from cardiologist at [**Hospital3 **] Dr. [**Last Name (STitle) 7275**].
   - coumadin level has been adjusted [**2-15**] to azithromycin
   .
   # agitation
 pt became adamant about wanting to leave AMA overnight.
   Psych was consulted but pt refused capacity evaluation.  Per wife, pt
   with h/o schizophrenia and psychotic disorder, with frequent episodes
   of leaving hospital AMA.
   - psych recommends serum and urine tox screens
 done and were negative
   - continue ziprasidone and trazodone
   - psych states that they can not determine is pt has capacity because
   he is refusing exam
   - psych recommends 5mg Haldol IV PRN agitation
   # hyponatremia - likely [**2-15**] volume overload.  improved slightly with
   diuresis (114->117->119 ->121->121).  no obvious intracranial process
   based on neuro exam.  no obvious intrathoracic malignancy, though has
   extensive smoking history.  at present alert, answers questions, and
   follows commands.
   - sodium had increased to 121 by yesterday afternoon
   - this morning
s sodium still pending.  Will f/u
   .
   # DM - continue SSI here.
   - continue to monitor blood glucose levels
   .
   # lower extremity skin changes
   - wound care [**Name8 (MD) 77**] rn.
   - continue Lidex to legs [**Hospital1 **]
   - keep LE elevated.
   . .
   # FEN: No IVF, replete lytes prn, cardiac, diabetic diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-7-7**] 02:35 AM
   18 Gauge - [**2145-7-7**] 02:35 AM
   Prophylaxis:
   DVT: anticoagulated on coumadin
   Stress ulcer:
   Comments:
   Communication:  With Patient
   Code status: Full code
   Disposition: transfer to floor

2145-07-09 11:29:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Wants to go home at times but have been able to redirect
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-8**] 09:55 AM
   Ceftriaxone - [**2145-7-8**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-9**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 101 (59 - 101) bpm
   BP: 156/63(85) {104/55(68) - 159/101(104)} mmHg
   RR: 27 (15 - 30) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
                  Total In:
                                                                  1,120 mL
                                                                    430 mL
   PO:
                                                                    728 mL
                                                                    430 mL
   TF:
   IVF:
                                                                    392 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                  1,940 mL
   Urine:
                                                                  3,385 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,266 mL
                                                                 -1,510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///43/
   Physical Examination
   Gen: alert NAD
   CVtachy RR
   Chest: less wheezing
   Abd: obese soft +BS
   Ext: 3+ edema, severe venous stasis
   Neuron: conversant, appropriate, aggress to go to floor
   Labs / Radiology
   9.1 g/dL
   102 K/uL
   154 mg/dL
   0.8 mg/dL
   43 mEq/L
   5.3 mEq/L
   21 mg/dL
   89 mEq/L
   134 mEq/L
   30.9 %
   2.1 K/uL
        [image002.jpg]
                             [**2145-7-7**]  03:56 AM
                             [**2145-7-7**]  06:45 AM
                             [**2145-7-7**]  10:08 AM
                             [**2145-7-7**]  12:53 PM
                             [**2145-7-7**]  06:07 PM
                             [**2145-7-8**]  05:53 AM
                             [**2145-7-8**]  04:58 PM
                             [**2145-7-9**]  03:36 AM
   WBC
   3.5
   3.9
   2.1
   Hct
   31.9
   29.4
   30.9
   Plt
   100
   108
   102
   Cr
   0.7
   0.9
   0.9
   0.9
   0.9
   0.8
   TropT
   <0.01
   TCO2
   40
   42
   Glucose
   103
   120
   170
   241
   217
   154
   Other labs: PT / PTT / INR:24.0/27.2/2.3, CK / CKMB /
   Troponin-T:66//<0.01, Differential-Neuts:91.3 %, Lymph:6.1 %, Mono:2.1
   %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Albumin:3.9 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 LEUKOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   1.       Resp Distress: Mixed picture with right heart failure, some
   left heart failure, and COPD exacberation. On Medrol
 will switch to
   po Prednsione, ,changed to po abx
 Cetriaxone, Azithro, nebs, BIPAP
   refusing at this point and has not needed.
   Echo showed severe RV dysfunction and overload. Diruesing well on own,
   follow trend.
   2.       HypoNa: likely total body volume overloaded but low effect
   circ volume
Rising nicely with diuresis- check this afternoon as we do
   not want to rise too quickly.
   3. DM: will start 70/30 with sliding scale and watch closely
   4.       Anticoag: need coumadin
 goal inr 2.5 to 3.5
 fell today
   getting po Coumadin
 but may need heparin bridge since AVR
   4.       LE venous stasis and wound care consult
   5.       Agitation: known Psych disorder- redirected thus far, psych
   following.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-7-7**] 02:35 AM
   18 Gauge - [**2145-7-7**] 02:35 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: eating
   Communication:  with pt
   [**Name (NI) 156**] status: Full code
   Disposition :Transfer to floor

2145-07-11 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2145-7-10**] 11:03 AM
   upper endo done
   [**7-10**]
   -Met with [**Name (NI) **] wife and discussed critical nature of current
   condition.  Mrs. [**Known lastname 7276**] recognizes severity and realizes he may die
   but wants all measures to try and resuscitate Mr. [**Known lastname 7276**].
   -Obtained ID approval for broadening abx coverage with Zosyn.  ID
   suggested possibly adding an aminoglycoside or fluroquinolone.
   -Sputum cx unable to be processed.  Will not collect another at this
   time [**2-15**] bleeding.
   -[**2076**]: Spoke with Anesthesia Dr. [**Last Name (STitle) 4731**] [**Numeric Identifier 7364**] regarding pilot
   balloon.  Given that the ETT cuff is not leaking he recommends leaving
   the [**Doctor Last Name **] in place and if it becomes problem[**Name (NI) 555**] they will come and
   swap out the tube.
   -PT/INR rising.  Patient received total 10mg of Warfarin on [**7-9**],
   continues to have blood from ETT, and requires pressors.  Ordered for
   third unit of pRBC.
   -Will need to recheck Ca after next unit and replete if necessary.
   Corrected Ca was 8.7 prior to 3rd unit.
   [**7-11**]
   -0515: AM Hct 24.9 while only 2.5hrs after completed 3rd unit patient
   continues to have bloody secretions suctioned from ETT.  BP 90's/50'
   MAP low 60's without pressors.  Given continued blood loss will
   transfuse additional unit.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2145-7-8**] 12:00 PM
   Vancomycin - [**2145-7-10**] 08:24 PM
   Azithromycin - [**2145-7-10**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-11**] 12:15 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-7-10**] 07:30 AM
   Fentanyl - [**2145-7-11**] 03:06 AM
   Midazolam (Versed) - [**2145-7-11**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-11**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 75 (63 - 90) bpm
   BP: 115/59(75) {89/37(52) - 141/76(94)} mmHg
   RR: 19 (18 - 118) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
    CVP: 25 (20 - 25)mmHg
   CO/CI (Fick): (12.5 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  3,134 mL
                                                                    638 mL
   PO:
   TF:
   IVF:
                                                                  2,279 mL
                                                                    327 mL
   Blood products:
                                                                    700 mL
                                                                    310 mL
   Total out:
                                                                  2,685 mL
                                                                    485 mL
   Urine:
                                                                  2,685 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                    153 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 29 cmH2O
   SpO2: 94%
   ABG: 7.49/58/102/40/18
   Ve: 10 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General: intubated, sedated.
   HEENT: s/p left ear trauma, oozing from trauma site.
   Neck: supple, unable to assess JVP 2/2 habitus, no LAD
   Lungs: bilateral rales, minimal wheezing.
   CV: regular rate, normal S1 + S2, no appreciable murmurs, rubs,
   gallops.
   Abdomen: obese, markedly distended, firm ~5cm diameter region in
   epigastrium, +tympany.  echymotic region over epigastrium.  bowel
   sounds present, no rebound tenderness or guarding
   Ext: Warm, dopplerable DP/PT pulses, LE venous stasis changes, 2+
   radials bilat.
   Labs / Radiology
   87 K/uL
   8.1 g/dL
   161 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.7 mEq/L
   35 mg/dL
   91 mEq/L
   134 mEq/L
   24.9 %
   2.4 K/uL
        [image002.jpg]
                             [**2145-7-10**]  02:29 PM
                             [**2145-7-10**]  03:32 PM
                             [**2145-7-10**]  03:52 PM
                             [**2145-7-10**]  05:24 PM
                             [**2145-7-10**]  06:39 PM
                             [**2145-7-10**]  06:54 PM
                             [**2145-7-10**]  10:16 PM
                             [**2145-7-10**]  10:44 PM
                             [**2145-7-11**]  03:56 AM
                             [**2145-7-11**]  04:23 AM
   WBC
   5.1
   4.2
   2.4
   Hct
   24.6
   26.1
   26.5
   24.9
   Plt
   102
   88
   98
   87
   Cr
   0.9
   TropT
   <0.01
   TCO2
   39
   43
   45
   45
   43
   45
   Glucose
   161
   Other labs: PT / PTT / INR:30.4/28.9/3.0, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:90.6 %, Lymph:3.3 %,
   Mono:6.0 %, Eos:0.1 %, Fibrinogen:142 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   48M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea, tx
   with steroids/diuresis, transferred back to MICU for increased dyspnea,
   tachypnea, and bleeding.
   .
   # dyspnea/tachypnea - pt was being treated for copd flare, and chf
   exacerbation prior to call-out to medical floor.  now returns, after
   increased agitation on the floor, followed by O2 desaturation, with
   progression of bilateral infiltrates c/w edema on CXR, though
   concerning for superimposed alveolar hemmorhage given PTT>150, and
   copious blood secretions, although secretions may be entirely from
   oropharyngeal trauma during intubation.  he received lasix iv 120mg x1
   and morphine iv 2mg x1 on floor, and continues to produce vigorous
   urine output.  Patient with continued bloody secretions from ETT.
   - broadened abx empirically to vanco/zosyn.
   - continue steroids taper
 60mg solumedrol IV x 1 today, then switch
   to prednisone tomorrow
   - sputum cx.
   - d/w anesthesia stability of ET tube as there is ongoing question of
   valve leakage, which may necessitate replacing tube.  Cuff leak this
   AM.  Will revisit exchanging ETT today during the day.
   # hypotension - most likely [**2-15**] repeated sedation boluses (propofol,
   fentanyl, versed), and this has now resolved, with patient requiring
   transient dosing of levophed based on sedation needs. Continued blood
   loss also contributing but Pt has been transfused 3 units over 24hrs
   and 4^th unit has been ordered.  ddx also includes sepsis, and
   cardiogenic shock.   Surgery evaluated Pt and does not believe surgical
   pathology present.  Lactate trended back down to 1.7 from high of 3.4
   - broaden abx with vanc/zosyn.
   - Continue monitoring HCT
   - Maintain MAP>60, for goal CVP >8.
   - maintain T&C.
   - protonix gtt.
   - quad-lumen, and 2 PIVs in place.
   - wean propfol, favor fent/versed.
   .
   # bleeding - profuse bleeding during intubation, likely oropharyngeal
   trauma.  Also with dark maroon aspirated from OGT.  Feel this likely
   represents oral secretions, as HCT has been largely stable, and no
   frank melena.  Most likely [**2-15**] trauma in the setting of superimposed
   supratherapeutic PTT.  DDx also includes DIC.
   - DIC labs were negative as panel however low haptoglobin
 likely
   associated with mechanical heart valve
   - Monitor HCT.
   - continue PPI gtt for now.
   - if continues to have profuse oral secretions consider ENT consult.
   - hold off on reversing anticoagulation with FFP/cryo for now given his
   mechanical aortic valve, and keep up with blood loss by transfusing
   pRBC PRN.
   # DM - continue SSI.  on novolin 90U QAM at home per wife, per pharmacy
   closest analog would be 70/30, so will split dose [**Hospital1 **] for now and add
   humalog SSI.
   - trend FSBS on steriods.
   .
   # CHF - s/p AVR in [**2134**] (metal valve, st. [**Male First Name (un) **], @ [**Hospital1 12**] x2).  currently
   volume up.
   - hold diuretics.
   - daily weights, strict i/o's, low salt diet.
   - fluid restrict to 1.2L.
   - hold lisinopril, diltiazem.
   - hold heparin gtt/coumadin for now.
   .
   # COPD - on 2L NC at home, roncherous and tight with wheezing on
   initial MICU exam, now less wheezy.
   - continue albuterol/atrovent nebs/mdi, hold spiriva.
   - continue solumedrol iv 125mg q8hr.
   - broaden abx as above.
   .
   # lower extremity skin changes - no erythema, but +warmth.  more
   consisent with chronic venous changes presently, though does have some
   areas of skin breakdown which are at risk for infection.
   - wound care [**Name8 (MD) 77**] rn.
   - lidex dressings with compression stockings.
   - keep LE elevated.
   .
   # psych - h/o schizophrenia and psychotic disorder, with frequent
   episodes of leaving hospital AMA.
   - hold home regimen of trazadone 600mg po qhs, geodone 80mg [**Hospital1 **] while
   intubated.
   .
   # FEN: IVF as above, NPO.
   # Prophylaxis: supratherapeutic PTT.
   # Access: R IJ Quad lumen TLC, R radial A-LINE, PIVx2.
   # Code: FULL, confirmed with patient and wife.
   # Communication: patient, wife, [**Name (NI) 2668**] [**Name (NI) 7276**], [**Telephone/Fax (1) 7277**], cell
   [**Telephone/Fax (1) 7278**].
   ICU Care
   Nutrition: IVF / NPO
   Glycemic Control:  Insulin
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT: supratherapeutic PTT
   Stress ulcer: Protonix
   VAP:  elevate head of bed, oral care
   Comments:
   Communication:  Discussed case with Wife, Sister and sons evening [**7-10**]
   [**Name2 (NI) 156**] status: Full code
   Disposition: MICU

2145-07-12 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -[**2076**]: Spoke with Anesthesia Dr. [**Last Name (STitle) 4731**] [**Numeric Identifier 7364**] regarding pilot
   balloon.  Given that the ETT cuff is not leaking he recommends leaving
   the [**Doctor Last Name **] in place and if it becomes problem[**Name (NI) 555**] they will come and
   swap out the tube.
   -0515: AM Hct 24.9 while only 2.5hrs after completed 3rd unit patient
   continues to have bloody secretions suctioned from ETT.  BP 90's/50'
   MAP low 60's without pressors.  Given continued blood loss will
   transfuse additional unit.
   -vanc redosed
   -Hct improving (28.9 at noon, up from 24.9) - 29 at 11pm
   -Pt alkalemic - initially decreased title volume (550 -> 500) - also
   gave 500mL NS and drew urine Cl in case this is contraction alkalosis
   -at midnight, pt still alkalemic - decreased respiratory rate from 18
   to 16
   - bg 45 this AM
 given 1 amp of D50
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-10**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-12**] 12:19 AM
   Vancomycin - [**2145-7-12**] 01:45 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2145-7-11**] 11:30 PM
   Fentanyl - [**2145-7-11**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-12**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 69 (55 - 77) bpm
   BP: 98/51(64) {92/42(54) - 141/67(87)} mmHg
   RR: 19 (15 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
    CVP: 22 (22 - 27)mmHg
   Total In:
                                                                  2,899 mL
                                                                    530 mL
   PO:
   TF:
                                                                    151 mL
                                                                    124 mL
   IVF:
                                                                  1,858 mL
                                                                    406 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  1,512 mL
                                                                    322 mL
   Urine:
                                                                  1,512 mL
                                                                    322 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,387 mL
                                                                    208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 42 cmH2O
   Plateau: 28 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/58/95.[**Numeric Identifier 252**]/39/14
   Ve: 7.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General: intubated, sedated.
   HEENT: s/p left ear trauma, oozing from trauma site, R IJ in place
   Neck: supple, unable to assess JVP 2/2 habitus, no LAD
   Lungs: bilateral rales, minimal wheezing.
   CV: regular rate, normal S1 + S2, no appreciable murmurs, rubs,
   gallops.
   Abdomen: obese, markedly distended, firm ~5cm diameter region in
   epigastrium, +tympany.  echymotic region over epigastrium.  bowel
   sounds present, no rebound tenderness or guarding
   Ext: Warm, dopplerable DP/PT pulses, LE venous stasis changes, 2+
   radials bilat.
   Labs / Radiology
   88 K/uL
   9.3 g/dL
   143 mg/dL
   1.0 mg/dL
   39 mEq/L
   4.4 mEq/L
   37 mg/dL
   90 mEq/L
   134 mEq/L
   29.0 %
   4.3 K/uL
        [image002.jpg]
                             [**2145-7-10**]  10:16 PM
                             [**2145-7-10**]  10:44 PM
                             [**2145-7-11**]  03:56 AM
                             [**2145-7-11**]  04:23 AM
                             [**2145-7-11**]  12:01 PM
                             [**2145-7-11**]  04:54 PM
                             [**2145-7-11**]  05:17 PM
                             [**2145-7-11**]  11:00 PM
                             [**2145-7-11**]  11:11 PM
                             [**2145-7-12**]  02:23 AM
   WBC
   4.2
   2.4
   4.3
   Hct
   26.5
   24.9
   28.9
   27.9
   29.0
   Plt
   98
   87
   88
   Cr
   0.9
   1.0
   TCO2
   43
   45
   44
   43
   42
   Glucose
   161
   143
   Other labs: PT / PTT / INR:30.7/27.5/3.1, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:86.9 %, Lymph:7.5 %,
   Mono:5.3 %, Eos:0.3 %, Fibrinogen:142 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   48M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea, tx
   with steroids/diuresis, transferred back to MICU for increased dyspnea,
   tachypnea, and bleeding requiring intubation w/ upper airway bleeding
   in setting of anticoagulation for mechanical valve.
   # dyspnea/tachypnea/acute respiratory failure
 pt was being treated
   for copd flare, and chf exacerbation prior to call-out to medical
   floor.  now returns, after increased agitation on the floor, followed
   by O2 desaturation, with progression of bilateral infiltrates c/w edema
   on CXR, though concerning for superimposed alveolar hemmorhage given
   PTT>150, and copious blood secretions, although secretions may be
   entirely from oropharyngeal trauma during intubation.  he received
   lasix iv 120mg x1 and morphine iv 2mg x1 on floor, and continues to
   produce vigorous urine output.  Patient with continued bloody
   secretions from ETT.  DDX includes COPD flare vs aspiration of blood vs
   pulm edema vs pulm hemorrhage.
   - tolerating inc PEEP and reduction in FIO2
   - will try PSV mode
   - broadened abx empirically to vanco/zosyn.  Will treat for total 7
   days.
   - continue steroids taper
 60mg solumedrol IV x 1 today, then switch
   to prednisone tomorrow.  Cont MDI.
   - sputum cx.
   - d/w anesthesia stability of ET tube as there is ongoing question of
   valve leakage, which may necessitate replacing tube.  Cuff leak this
   AM.  Will revisit exchanging ETT today during the day, but in light of
   rising INR would hold off if possible due to risk of bleeding.
   # hypotension - most likely [**2-15**] repeated sedation boluses (propofol,
   fentanyl, versed), and this has now resolved, with patient requiring
   transient dosing of levophed based on sedation needs. Continued blood
   loss also contributing but Pt has been transfused 3 units over 24hrs
   and 4^th unit has been ordered.  ddx also includes sepsis, and
   cardiogenic shock.   Surgery evaluated Pt and does not believe surgical
   pathology present.
   - broaden abx with vanc/zosyn.
   - Continue monitoring HCT
   - Maintain MAP>60, for goal CVP >8.
   - maintain T&C.
   - quad-lumen, and 2 PIVs in place.
   - wean propfol, favor fent/versed.
   .
   # bleeding - profuse bleeding during intubation, likely oropharyngeal
   trauma.  Also with dark maroon aspirated from OGT, which has
   subsequently cleared to bile.  Most likely [**2-15**] trauma in the setting of
   superimposed supratherapeutic PTT.
   - EGD with no bleeding source
   - has been transfused 4U pRBC in past 48 hrs
   - DIC labs were negative as panel however low haptoglobin
 likely
   associated with mechanical heart valve
   - Monitor HCT.
   - if continues to have profuse oral secretions consider ENT consult.
   - hold off on reversing anticoagulation with FFP/cryo for now given his
   mechanical aortic valve, and keep up with blood loss by transfusing
   pRBC PRN.  If blood loss becomes acutely worse reverse with FFP and
   avoid using Vit K if possible.
   - Will continue to transfuse to keep up with blood loss
   - INR 3.3, hold coumadin
   # DM - continue SSI.  on novolin 90U QAM at home per wife, per pharmacy
   closest analog would be 70/30, so will split dose [**Hospital1 **] for now and add
   humalog SSI.
   - trend FSBS on steriods.
   - bg was low at 45 this AM
 decreased AM dose to 20 U and PM dose to
   20 U
   .
   # lower extremity skin changes and ear/facial wound
    - no erythema to LE, but +warmth.  more consisent with chronic venous
   changes presently, though does have some areas of skin breakdown which
   are at risk for infection.
   - wound care [**Name8 (MD) 77**] rn.
   - lidex dressings with compression stockings.
   - keep LE elevated.
   -Ear/face wound care [**Name8 (MD) 77**] RN recs.
   .
   # psych - h/o schizophrenia and psychotic disorder, with frequent
   episodes of leaving hospital AMA.
   - Restart home regimen of trazadone 600mg po qhs, geodone 80mg [**Hospital1 **].
   .
   # FEN: IVF c/s nutrition for tube feed recs..
   # Communication: patient, wife, [**Name (NI) 2668**] [**Name (NI) 7276**], [**Telephone/Fax (1) 7277**], cell
   [**Telephone/Fax (1) 7278**].
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-7-11**] 12:24 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, poor prognosis

2145-07-12 13:02:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remains on vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-10**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-12**] 08:00 AM
   Vancomycin - [**2145-7-12**] 08:30 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2145-7-11**] 11:30 PM
   Fentanyl - [**2145-7-11**] 11:30 PM
   Dextrose 50% - [**2145-7-12**] 10:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-12**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 66 (55 - 77) bpm
   BP: 114/55(69) {92/42(54) - 116/59(74)} mmHg
   RR: 20 (14 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
   CVP: 18 (16 - 23)mmHg
   Total In:
                                                                  2,899 mL
                                                                  1,236 mL
   PO:
   TF:
                                                                    151 mL
                                                                    308 mL
   IVF:
                                                                  1,858 mL
                                                                    818 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  1,512 mL
                                                                    687 mL
   Urine:
                                                                  1,512 mL
                                                                    682 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,387 mL
                                                                    549 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 34 cmH2O
   Plateau: 25 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/58/95.[**Numeric Identifier 252**]/39/14
   Ve: 8 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen: obese male. Intubated and sedated
   CV: RR
   Chest: fair air movement, faint exp wheeze
   Abd: obese
   Ext: 3+ edema
   Neuro: opens eyes to voice then quickly asleep
   Labs / Radiology
   9.2 g/dL
   100 K/uL
   72 mg/dL
   0.8 mg/dL
   39 mEq/L
   3.9 mEq/L
   36 mg/dL
   92 mEq/L
   136 mEq/L
   29.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2145-7-10**]  10:44 PM
                             [**2145-7-11**]  03:56 AM
                             [**2145-7-11**]  04:23 AM
                             [**2145-7-11**]  12:01 PM
                             [**2145-7-11**]  04:54 PM
                             [**2145-7-11**]  05:17 PM
                             [**2145-7-11**]  11:00 PM
                             [**2145-7-11**]  11:11 PM
                             [**2145-7-12**]  02:23 AM
                             [**2145-7-12**]  05:51 AM
   WBC
   2.4
   4.3
   5.2
   Hct
   24.9
   28.9
   27.9
   29.0
   29.6
   Plt
   87
   88
   100
   Cr
   0.9
   1.0
   0.8
   TCO2
   43
   45
   44
   43
   42
   Glucose
   161
   143
   72
   Other labs: PT / PTT / INR:32.4/28.9/3.3, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   CXR: roated left effusion ETT OK
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PULMONARY EDEMA
 LEUKOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   1.       Resp failure: in setting of chronic severe COPD, Pickwickian,
   CHF, - will try to switch to PSV today- likely he will breathe on his
   own and the faster we wean the better given his comorbidities. ? Cuff
   leak. If he looks like he is doing  OK on PSV a tube change may not be
   worth it but we must be vigilant. Complete course of Vanco/Zosyn for
   HAPx 7 days.
   2.       Hypotension: DDX sirs, will wean levophed, tritrate to MAP
   60-65, watch UOP, trend CVP
   3.       Anemia: HCT drop with high PTT
 with bloody pulm edema vs GI
   source possible
   4.       Valve: watch trend of inr- restart anti coag when less than
   2.5
   Remaining issue as per Housestaff
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2145-7-11**] 12:24 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:    with wife- try to reach today
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2145-07-13 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family here to see pt; updated them on clinical condition
   - methylprednisolone changed to prednisone
   - pt changed to PSV. dropped the PEEP and FI02.
   - gave low dose lasix x 1 to reach goal I/O
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-10**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-13**] 12:15 AM
   Vancomycin - [**2145-7-13**] 01:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2145-7-12**] 10:50 AM
   Lansoprazole (Prevacid) - [**2145-7-12**] 04:30 PM
   Furosemide (Lasix) - [**2145-7-12**] 11:00 PM
   Midazolam (Versed) - [**2145-7-13**] 12:00 AM
   Fentanyl - [**2145-7-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-13**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 74 (62 - 79) bpm
   BP: 94/45(59) {94/41(55) - 129/63(83)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
    CVP: 20 (16 - 24)mmHg
   Total In:
                                                                  2,295 mL
                                                                    884 mL
   PO:
   TF:
                                                                    764 mL
                                                                    297 mL
   IVF:
                                                                  1,301 mL
                                                                    417 mL
   Blood products:
   Total out:
                                                                  1,347 mL
                                                                    920 mL
   Urine:
                                                                  1,342 mL
                                                                    920 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    948 mL
                                                                    -36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 447 (418 - 541) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 19 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.42/65/95.[**Numeric Identifier 253**]/41/13
   Ve: 5.5 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Gen: obese male. Intubated and sedated
   CV: RR, nl S1S2
   Chest: fair air movement, faint exp wheeze
   Abd: obese
   Ext: 3+ edema
   Neuro: opens eyes to voice then quickly asleep
   Labs / Radiology
   88 K/uL
   9.0 g/dL
   115 mg/dL
   0.8 mg/dL
   41 mEq/L
   3.7 mEq/L
   32 mg/dL
   91 mEq/L
   136 mEq/L
   29.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2145-7-11**]  04:54 PM
                             [**2145-7-11**]  05:17 PM
                             [**2145-7-11**]  11:00 PM
                             [**2145-7-11**]  11:11 PM
                             [**2145-7-12**]  02:23 AM
                             [**2145-7-12**]  05:51 AM
                             [**2145-7-12**]  12:11 PM
                             [**2145-7-12**]  06:17 PM
                             [**2145-7-12**]  11:14 PM
                             [**2145-7-13**]  02:40 AM
   WBC
   5.2
   4.2
   Hct
   27.9
   29.0
   29.6
   29.5
   29.5
   Plt
   100
   88
   Cr
   0.8
   0.8
   TCO2
   44
   43
   42
   44
   44
   Glucose
   72
   115
   Other labs: PT / PTT / INR:23.4/27.9/2.2, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   48M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea, tx
   with steroids/diuresis, transferred back to MICU for increased dyspnea,
   tachypnea, and bleeding requiring intubation w/ upper airway bleeding
   in setting of anticoagulation for mechanical valve.
   1.       Resp failure: in setting of chronic severe COPD, Pickwickian,
   CHF - switched to PSV today.  ?Cuff leak. If he looks like he is doing
   OK on PSV a tube change may not be worth it but we must be vigilant.
   Complete course of Vanco/Zosyn for HAPx 7 days.  Continue steroid
   taper; change solumedrol to prednisone.  Cont MDI
   2.       Hypotension: DDX sirs vs  sedation, wean levophed, tritrate to
   MAP 60-65, watch UOP, trend CVP.  Surgery feels that surgical pathology
   not present.
   3.       Anemia: HCT drop with high PTT
 with bloody pulm edema vs GI
   source possible.  EGD without bleeding source.
   4.       Valve: watch trend of inr- restart anti coag when less than
   2.5 (can use heparin).
   5.       lower extremity skin changes and ear/facial wound
   6.
   - no erythema to LE, but +warmth.  more consisent with chronic venous
   changes presently, though does have some areas of skin breakdown which
   are at risk for infection.
   - wound care [**Name8 (MD) 77**] rn.
   - lidex dressings with compression stockings.
   - keep LE elevated.
   -Ear/face wound care [**Name8 (MD) 77**] RN recs.
   .
   # psych - h/o schizophrenia and psychotic disorder, with frequent
   episodes of leaving hospital AMA.
   - Restart home regimen of trazadone 600mg po qhs, geodone 80mg [**Hospital1 **].
   .
   # FEN: IVF c/s nutrition for tube feed recs..
   # Communication: patient, wife, [**Name (NI) 2668**] [**Name (NI) 7276**], [**Telephone/Fax (1) 7277**], cell
   [**Telephone/Fax (1) 7278**].
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-7-13**] 01:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-07-13 09:52:00 Physician Attending Progress Note
Chief Complaint: resp failure, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Lasix for I and O goal
   PSV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2145-7-10**] 08:45 PM
   Vancomycin - [**2145-7-13**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-13**] 07:45 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2145-7-12**] 10:50 AM
   Lansoprazole (Prevacid) - [**2145-7-12**] 04:30 PM
   Furosemide (Lasix) - [**2145-7-12**] 11:00 PM
   Midazolam (Versed) - [**2145-7-13**] 12:00 AM
   Fentanyl - [**2145-7-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-13**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 74 (63 - 79) bpm
   BP: 106/53(68) {94/41(55) - 129/63(83)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
   CVP: 22 (16 - 24)mmHg
   Total In:
                                                                  2,295 mL
                                                                  1,183 mL
   PO:
   TF:
                                                                    764 mL
                                                                    395 mL
   IVF:
                                                                  1,301 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                  1,347 mL
                                                                  1,065 mL
   Urine:
                                                                  1,342 mL
                                                                  1,065 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    948 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 402 (402 - 541) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 19 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.42/65/95.[**Numeric Identifier 253**]/41/13
   Ve: 6.3 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Gen: obese male. Intubated and sedated but rouses to voice
   CV: RR
   Chest: fair air movement, faint exp wheeze
   Abd: obese
   Ext: 3+ edema
   Neuro: opens eyes to voice then quickly asleep
   Labs / Radiology
   9.0 g/dL
   88 K/uL
   115 mg/dL
   0.8 mg/dL
   41 mEq/L
   3.7 mEq/L
   32 mg/dL
   91 mEq/L
   136 mEq/L
   29.5 %
   4.2 K/uL
        [image002.jpg]
                             [**2145-7-11**]  04:54 PM
                             [**2145-7-11**]  05:17 PM
                             [**2145-7-11**]  11:00 PM
                             [**2145-7-11**]  11:11 PM
                             [**2145-7-12**]  02:23 AM
                             [**2145-7-12**]  05:51 AM
                             [**2145-7-12**]  12:11 PM
                             [**2145-7-12**]  06:17 PM
                             [**2145-7-12**]  11:14 PM
                             [**2145-7-13**]  02:40 AM
   WBC
   5.2
   4.2
   Hct
   27.9
   29.0
   29.6
   29.5
   29.5
   Plt
   100
   88
   Cr
   0.8
   0.8
   TCO2
   44
   43
   42
   44
   44
   Glucose
   72
   115
   Other labs: PT / PTT / INR:23.4/27.9/2.2, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PULMONARY EDEMA
 LEUKOPENIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   1.       Resp failure: in setting of chronic severe COPD, Pickwickian,
   CHF, - on PSV today- RSBI 45, check SBT. Try to get about 500 cc neg.
   Complete course of Vanco/Zosyn for HAPx 7 days.
   2.       Hypotension: resolved, initial DDX sirs, will wean levophed,
   tritrate to MAP 60-65, watch UOP, trend CVP
   3.       Anemia: HCT drop with high PTT
 with bloody pulm edema vs GI
   source
 neg EGD.
   4.       Valve: inr 2.3 today hparin drip with no blous and restart 5
   coumadin.
   Remaining issue as per [**Year (4 digits) **]
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2145-7-13**] 01:07 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT: bridge w heparin
   Stress ulcer: PPI
   Communication:  with wife [**Name (NI) **] updated Try t set up meeting in
   next 24 hours for update
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2145-07-14 05:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Diuresing with lasix (-1.5 L overnight)
   - has been on [**5-18**] all night; attempt at extubation this AM.
   -Per Psych when extubated and alert restart Trasadone @ 100mg PO qhs
   and increase by 100mg each day until at admission dose.
   - dropped his FIO2 to 40%
   - 4 versed, 75 fentanyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2145-7-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-14**] 12:45 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-7-13**] 04:30 PM
   Coumadin (Warfarin) - [**2145-7-13**] 04:30 PM
   Furosemide (Lasix) - [**2145-7-14**] 01:44 AM
   Heparin Sodium - [**2145-7-14**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-14**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 78 (66 - 86) bpm
   BP: 129/60(80) {94/45(59) - 138/64(86)} mmHg
   RR: 18 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
    CVP: 21 (18 - 22)mmHg
   Total In:
                                                                  2,576 mL
                                                                    467 mL
   PO:
   TF:
                                                                    966 mL
                                                                    161 mL
   IVF:
                                                                  1,190 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  1,950 mL
   Urine:
                                                                  3,900 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,324 mL
                                                                 -1,483 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (300 - 504) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.36/87.[**Numeric Identifier 7**]/103/47/19
   Ve: 7 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: obese male. Intubated, minimally sedated, rouses to voice
   CV: RR, nl S1S2
   Chest: fair air movement, faint exp wheeze
   Abd: obese
   Ext: 3+ edema
   Neuro: opens eyes to voice then quickly asleep
   Labs / Radiology
   101 K/uL
   8.9 g/dL
   97 mg/dL
   0.8 mg/dL
   47 mEq/L
   3.2 mEq/L
   29 mg/dL
   90 mEq/L
   141 mEq/L
   29.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2145-7-12**]  05:51 AM
                             [**2145-7-12**]  12:11 PM
                             [**2145-7-12**]  06:17 PM
                             [**2145-7-12**]  11:14 PM
                             [**2145-7-13**]  02:40 AM
                             [**2145-7-13**]  11:54 AM
                             [**2145-7-13**]  12:11 PM
                             [**2145-7-13**]  10:19 PM
                             [**2145-7-14**]  03:56 AM
                             [**2145-7-14**]  04:11 AM
   WBC
   5.2
   4.2
   4.7
   Hct
   29.6
   29.5
   29.5
   30.1
   27.0
   29.6
   Plt
   100
   88
   101
   Cr
   0.8
   0.8
   0.8
   TCO2
   44
   44
   45
   52
   Glucose
   72
   115
   97
   Other labs: PT / PTT / INR:18.5/46.4/1.7, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   48 y/o M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea,
   tx with steroids/diuresis, transferred back to MICU for increased
   dyspnea, tachypnea, requiring intubation.
   1.       Respiratory failure: pt with Pickwickian physiology, as well
   as chronic severe COPD/CHF.  Has been on PSV 5/5 SBT all night.
   Oxygenating and ventilating well.  RSBI 45.  Dropped his FIO2 to 40%.
   Will attempt extubation this AM, now that he has passed his SBT and has
   been diuresing well (-1.5 L overnight) with lasix gtt overnight.
   Complete course of Vanco/Zosyn for HAPx 7 days.  Continue steroid taper
   (20 mg tomorrow).  Switch MDI to nebs.
   2.       Hypotension: primary dx was SIRS.  Pt has been source negative
   (blood, urine, sputum).  Off levophed with good MAPs.  Good UOP.
   Slightly lower bp this AM likely [**2-15**] aggressive diuresis.
   3.       Anemia: previous HCT drop with high PTT, with ? GIB, now
   resolved.  EGD without bleeding source.  Will not bronch at this time
   (to assess earlier Hct drop).
   4.       Mechanical aortic valve: INR was below 2.5 and heparin bridge
   was started with 5 mg coumadin.  INR 1.7 and PTT subtherapeutic this
   AM. Heparin scale made slightly more aggressive this AM.
   5.       Lower extremity skin changes and ear/facial wound - no
   erythema to LE, but +warmth.  more consisent with chronic venous
   changes presently, though does have some areas of skin breakdown which
   are at risk for infection.
                  - wound care [**Name8 (MD) 77**] RN.
                  - lidex dressings with compression stockings.
                  - keep LE elevated.
                  -Ear/face wound care [**Name8 (MD) 77**] RN recs.
   6.       Psych
 h/o schizophrenia and psychotic disorder, with
   frequent episodes of leaving hospital AMA.  Per Psych when
                  extubated and alert restart Trasadone @ 100mg PO qhs and
   increase by 100mg each day until at admission dose
                  (600 mg po qhs).
   # FEN: IVF c/s nutrition for tube feed recs.
   # Communication: patient, wife, [**Name (NI) 2668**] [**Name (NI) 7276**], [**Telephone/Fax (1) 7277**], cell
   [**Telephone/Fax (1) 7278**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT: heparin bridge
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2145-07-14 09:54:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Switched to PSV overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-14**] 12:45 AM
   Piperacillin - [**2145-7-14**] 08:30 AM
   Vancomycin - [**2145-7-14**] 09:07 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-7-13**] 04:30 PM
   Coumadin (Warfarin) - [**2145-7-13**] 04:30 PM
   Furosemide (Lasix) - [**2145-7-14**] 01:44 AM
   Heparin Sodium - [**2145-7-14**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-14**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 77 (69 - 86) bpm
   BP: 107/49(66) {101/44(60) - 138/64(86)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
   CVP: 21 (21 - 22)mmHg
   Total In:
                                                                  2,576 mL
                                                                  1,026 mL
   PO:
   TF:
                                                                    966 mL
                                                                    161 mL
   IVF:
                                                                  1,190 mL
                                                                    765 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                  2,270 mL
   Urine:
                                                                  3,900 mL
                                                                  2,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,324 mL
                                                                 -1,244 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 353 (300 - 504) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 6 cmH2O
   SpO2: 94%
   ABG: 7.36/87.[**Numeric Identifier 7**]/103/47/19
   Ve: 5.7 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Gen: obese male. Intubated and interactive
   CV: RR
   Chest: fair air movement, faint exp wheeze
   Abd: obese
   Ext: 3+ edema
   Neuro: opens eyes to voice then quickly asleep
   Labs / Radiology
   8.9 g/dL
   101 K/uL
   97 mg/dL
   0.8 mg/dL
   47 mEq/L
   3.2 mEq/L
   29 mg/dL
   90 mEq/L
   141 mEq/L
   29.6 %
   4.7 K/uL
        [image002.jpg]
                             [**2145-7-12**]  05:51 AM
                             [**2145-7-12**]  12:11 PM
                             [**2145-7-12**]  06:17 PM
                             [**2145-7-12**]  11:14 PM
                             [**2145-7-13**]  02:40 AM
                             [**2145-7-13**]  11:54 AM
                             [**2145-7-13**]  12:11 PM
                             [**2145-7-13**]  10:19 PM
                             [**2145-7-14**]  03:56 AM
                             [**2145-7-14**]  04:11 AM
   WBC
   5.2
   4.2
   4.7
   Hct
   29.6
   29.5
   29.5
   30.1
   27.0
   29.6
   Plt
   100
   88
   101
   Cr
   0.8
   0.8
   0.8
   TCO2
   44
   44
   45
   52
   Glucose
   72
   115
   97
   Other labs: PT / PTT / INR:18.5/46.4/1.7, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PULMONARY EDEMA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O HYPERTENSION, BENIGN
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   1.       Resp failure: in setting of chronic severe COPD, Pickwickian,
   CHF, - on PSV today- RSBI 45, ongoingk SBT. Try to get about 500 cc
   neg. Complete course of Vanco/Zosyn for HAPx 7 days.
   2.       Hypotension: resolved, initial DDX sirs, will wean levophed,
   tritrate to MAP 60-65, watch UOP, trend CVP
   3.       Anemia: HCT drop with high PTT
 with bloody pulm edema vs GI
   source
 neg EGD. Will not brinch unless recurrent hemoptysis as this
   was in setting of high PTT and no hx of it prior even though acoag but
   certainly a brinch for endobrinch lesion should hemopytsis recur could
   be considered.
   4.       Valve: inr 1.8 today, on hep drip and restarted po coumadin
   yesterday
   Remaining issue as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   18 Gauge - [**2145-7-10**] 05:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  with ot and wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2145-07-15 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated without difficulty
   - oxygen weaned to 4L NC
   - PTT down to 25 - heparin gtt restarted
   - on regular diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-14**] 12:45 AM
   Vancomycin - [**2145-7-14**] 07:50 PM
   Piperacillin - [**2145-7-14**] 11:53 PM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-15**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 85 (71 - 104) bpm
   BP: 129/65(84) {96/42(58) - 173/87(113)} mmHg
   RR: 25 (14 - 25) insp/min
   SpO2: 94% on 4L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
             Total In:
                                                                  3,705 mL
                                                                    607 mL
   PO:
                                                                  2,040 mL
                                                                    500 mL
   TF:
                                                                    161 mL
   IVF:
                                                                  1,404 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  4,920 mL
                                                                      0 mL
   Urine:
                                                                  4,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,215 mL
                                                                    608 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 353 (353 - 353) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   SpO2: 94%
   ABG: 7.45/68/87.[**Numeric Identifier 7**]/43/18
   Ve: 5.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Gen: obese male, Pickwickian habitus, extubated
   CV: RRR, nl S1S2
   Chest: fair air movement, faint exp wheeze, decreased BS at right base
   Abd: obese, nontender, distended, +BS
   Ext: [**2-16**]+ edema
   Neuro: CN exam normal, moving all extremities
   Labs / Radiology
   106 K/uL
   8.6 g/dL
   110 mg/dL
   0.7 mg/dL
   43 mEq/L
   3.1 mEq/L
   25 mg/dL
   88 mEq/L
   136 mEq/L
   27.7 %
   4.3 K/uL
        [image002.jpg]
   Xray
 extubated, R IJ in place, airspace disease vs edema R>L, mod R
   sided effusion
                             [**2145-7-13**]  11:54 AM
                             [**2145-7-13**]  12:11 PM
                             [**2145-7-13**]  10:19 PM
                             [**2145-7-14**]  03:56 AM
                             [**2145-7-14**]  04:11 AM
                             [**2145-7-14**]  10:39 AM
                             [**2145-7-14**]  10:53 AM
                             [**2145-7-14**]  05:50 PM
                             [**2145-7-15**]  03:22 AM
                             [**2145-7-15**]  03:42 AM
   WBC
   4.7
   4.3
   Hct
   30.1
   27.0
   29.6
   28.0
   31.6
   27.7
   Plt
   101
   106
   Cr
   0.8
   0.8
   0.7
   TCO2
   45
   52
   51
   49
   Glucose
   97
   113
   110
   Other labs: PT / PTT / INR:18.7/46.9/1.7, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Blood cx [**7-10**]
 NGTD
   Urine cx [**7-10**]
 neg
   Sputum [**7-12**] - neg
   Assessment and Plan
   48 y/o M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea,
   tx with steroids/diuresis, transferred back to MICU on [**7-10**] for
   increased dyspnea, tachypnea, requiring intubation.
   1.       Respiratory failure: pt with Pickwickian physiology, as well
   as chronic severe COPD/CHF.  Brought back to MICU ([**7-10**]) for likely
   flash pulm edema after prior extubation attempt.  Was extubated without
   difficulty [**2145-7-14**], with a RSBI 45, and diuresed well.  Currently
   oxygenating well on 4L NC. Complete course of Vanco/Zosyn for HAP x 7
   days (day 6 today, stop date tomorrow).  Will place PICC line.
   Continue steroid taper (20 mg today).  Cont nebs.  Will start on 80 mg
   IV lasix (with goal to get to 160 mg home dose qAM).  Goal I/O -1.5L
   today.
   2.       Hypotension: primary dx was SIRS.  Pt has been source negative
   (DFA neg, Legionella neg, blood NGTD [**7-10**], urine neg [**7-10**], sputum neg
   [**7-12**]).  Off levophed with good MAPs.  Good UOP.  Slightly lower BP
   yesterday AM likely [**2-15**] aggressive diuresis.  Normotensive today.
   3.       Anemia: Hct stable/trending down.  Previous HCT drop with high
   PTT, in setting of ?GIB, now resolved.  EGD without bleeding source.
   Had episode of hematuria and bleeding from ear/IJ site yesterday, which
   is now resolved.  Was restarted on heparin gtt.  Will follow.
   Considerations include endobronchial lesion (hemoptysis) vs. more
   systemic issue given his hematuria and bleeding from multiple sites.
   4.       Mechanical aortic valve: heparin gtt started overnight, as PTT
   subtherapeutic and bleeding resolved.  Will start 5 mg coumadin today.
   INR goal 2.5-3.5.  Of note, heparin will be off prior to PICC
   placement.
   5.       Lower extremity skin changes and ear/facial wound - no
   erythema to LE, but +warmth.  More consistent with chronic venous
   changes presently, though does have some areas of skin breakdown which
   are at risk for infection.
                  - wound care [**Name8 (MD) 77**] RN.
                  - lidex dressings with compression stockings.
                  - keep LE elevated.
                  -Ear/face wound care [**Name8 (MD) 77**] RN recs.
   6.       Psych
 h/o schizophrenia and psychotic disorder, with
   frequent episodes of leaving hospital AMA.  Per Psych when
                  extubated and alert restart Trasadone @ 100mg PO qhs and
   increase by 100mg each day until at admission dose
                  (600 mg po qhs).
           7.    DM type 2
 currently on insulin 70/30 50U in AM and 50U
   in PM with SSI backup.
   # FEN/lines/tubes: clear liquids, can d/c IJ line
   # Communication: patient, wife, [**Name (NI) 2668**] [**Name (NI) 7276**], [**Telephone/Fax (1) 7277**], cell
   [**Telephone/Fax (1) 7278**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP: off vent, HOB elevation, mouth care
   Comments:
   Communication:  Comments: with pt and wife
   [**Name (NI) 156**] status: Full code
   Disposition : transfer to floor in pm

2145-07-15 11:06:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-7-14**] 11:13 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-14**] 12:45 AM
   Vancomycin - [**2145-7-14**] 07:50 PM
   Piperacillin - [**2145-7-15**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2145-7-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-15**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 85 (74 - 104) bpm
   BP: 153/75(98) {106/50(66) - 173/87(113)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
             Total In:
                                                                  3,705 mL
                                                                    963 mL
   PO:
                                                                  2,040 mL
                                                                    500 mL
   TF:
                                                                    161 mL
   IVF:
                                                                  1,404 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  4,920 mL
                                                                    480 mL
   Urine:
                                                                  4,920 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,215 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 40%
   SpO2: 95%
   ABG: 7.45/68/87.[**Numeric Identifier 7**]/43/18
   PaO2 / FiO2: 220
   Physical Examination
    Gen: lying in bed, more quiet this AM
   CV: RR mech S2
   Chest faint exo wheezes [**Month (only) 453**] BS bases
   ABd: obese soft NT
   Ext: 2+ edema w venous stasis changes
   Neuro: conversant
   Labs / Radiology
   8.6 g/dL
   106 K/uL
   110 mg/dL
   0.7 mg/dL
   43 mEq/L
   3.1 mEq/L
   25 mg/dL
   88 mEq/L
   136 mEq/L
   27.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2145-7-13**]  11:54 AM
                             [**2145-7-13**]  12:11 PM
                             [**2145-7-13**]  10:19 PM
                             [**2145-7-14**]  03:56 AM
                             [**2145-7-14**]  04:11 AM
                             [**2145-7-14**]  10:39 AM
                             [**2145-7-14**]  10:53 AM
                             [**2145-7-14**]  05:50 PM
                             [**2145-7-15**]  03:22 AM
                             [**2145-7-15**]  03:42 AM
   WBC
   4.7
   4.3
   Hct
   30.1
   27.0
   29.6
   28.0
   31.6
   27.7
   Plt
   101
   106
   Cr
   0.8
   0.8
   0.7
   TCO2
   45
   52
   51
   49
   Glucose
   97
   113
   110
   Other labs: PT / PTT / INR:18.7/46.9/1.7, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LEUKOPENIA
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   1.       Resp failure: in setting of chronic severe COPD, Pickwickian,
   CHF, extubated successfully yesterday. This AM is a bit more dyspneic-
   volume overloaded. Will work with diuresis to goal 1-2 L negative as BP
   tolerates. Weaning steroids, but continue nebs
   Completing course of Vanco/Zosyn for HAPx 6/7 days.
   2.       Anemia: in setting of high PTT, stable HCT, hematuria
   resolved.
   3.         Aortic Prothestic Valve: continue hep drip, coumadin started
   4.         Pysch: following reccs, trazadone QHS. If he asks to leave
   AMA and cannot be redirected they can be called to assess capacity
   Remaining issue as per Housestaff
   ICU Care
   Nutrition: [**Doctor First Name **] diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
 convert to PICC
   20 Gauge - [**2145-7-15**] 04:32 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   Communication:  with pt and wife
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent:

2145-07-16 03:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - large bloody BM and R IJ site bleeding through dressing --> heparin
   gtt off
   - PICC line unable to be placed by IV team at bedside, to be attempted
   monday by IR?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-7-15**] 08:30 AM
   Vancomycin - [**2145-7-15**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-16**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2145-7-15**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-16**] 03:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.9
   HR: 83 (78 - 95) bpm
   BP: 164/72(97) {108/51(67) - 165/78(102)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.7 kg (admission): 141.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,514 mL
                                                                    110 mL
   PO:
                                                                  1,300 mL
             TF:
   IVF:
                                                                  1,214 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  6,920 mL
                                                                    140 mL
   Urine:
                                                                  6,920 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,406 mL
                                                                    -30 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: 7.47/60/68//16
   PaO2 / FiO2: 97
   Physical Examination
   Labs / Radiology
   106 K/uL
   8.6 g/dL
   110 mg/dL
   0.7 mg/dL
   43 mEq/L
   3.9 mEq/L
   25 mg/dL
   88 mEq/L
   136 mEq/L
   27.7 %
   4.3 K/uL
        [image002.jpg]
                             [**2145-7-14**]  04:11 AM
                             [**2145-7-14**]  10:39 AM
                             [**2145-7-14**]  10:53 AM
                             [**2145-7-14**]  05:50 PM
                             [**2145-7-15**]  03:22 AM
                             [**2145-7-15**]  03:42 AM
                             [**2145-7-15**]  01:09 PM
                             [**2145-7-15**]  05:03 PM
                             [**2145-7-15**]  05:54 PM
                             [**2145-7-15**]  10:53 PM
   WBC
   4.3
   Hct
   28.0
   31.6
   27.7
   Plt
   106
   Cr
   0.8
   0.7
   TCO2
   52
   51
   49
   49
   46
   46
   45
   Glucose
   113
   110
   Other labs: PT / PTT / INR:18.7/57.3/1.7, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LEUKOPENIA
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   48 y/o M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea,
   tx with steroids/diuresis, transferred back to MICU on [**7-10**] for
   increased dyspnea, tachypnea, requiring intubation.
   1.       Respiratory failure: pt with Pickwickian physiology, as well
   as chronic severe COPD/CHF.  Brought back to MICU ([**7-10**]) for likely
   flash pulm edema after prior extubation attempt.  Was extubated without
   difficulty [**2145-7-14**], with a RSBI 45, and diuresed well.  Currently
   oxygenating well on 4L NC. Complete course of Vanco/Zosyn for HAP x 7
   days (day 6 today, stop date tomorrow).  Will place PICC line.
   Continue steroid taper (20 mg today).  Cont nebs.  Will start on 80 mg
   IV lasix (with goal to get to 160 mg home dose qAM).  Goal I/O -1.5L
   today.
   2.       Hypotension: primary dx was SIRS.  Pt has been source negative
   (DFA neg, Legionella neg, blood NGTD [**7-10**], urine neg [**7-10**], sputum neg
   [**7-12**]).  Off levophed with good MAPs.  Good UOP.  Slightly lower BP
   yesterday AM likely [**2-15**] aggressive diuresis.  Normotensive today.
   3.       Anemia: Hct stable/trending down.  Previous HCT drop with high
   PTT, in setting of ?GIB, now resolved.  EGD without bleeding source.
   Had episode of hematuria and bleeding from ear/IJ site yesterday, which
   is now resolved.  Was restarted on heparin gtt.  Will follow.
   Considerations include endobronchial lesion (hemoptysis) vs. more
   systemic issue given his hematuria and bleeding from multiple sites.
   4.       Mechanical aortic valve: heparin gtt started overnight, as PTT
   subtherapeutic and bleeding resolved.  Will start 5 mg coumadin today.
   INR goal 2.5-3.5.  Of note, heparin will be off prior to PICC
   placement.
   5.       Lower extremity skin changes and ear/facial wound - no
   erythema to LE, but +warmth.  More consistent with chronic venous
   changes presently, though does have some areas of skin breakdown which
   are at risk for infection.
                  - wound care [**Name8 (MD) 77**] RN.
                  - lidex dressings with compression stockings.
                  - keep LE elevated.
                  -Ear/face wound care [**Name8 (MD) 77**] RN recs.
   6.       Psych
 h/o schizophrenia and psychotic disorder, with
   frequent episodes of leaving hospital AMA.  Per Psych when
                  extubated and alert restart Trasadone @ 100mg PO qhs and
   increase by 100mg each day until at admission dose
                  (600 mg po qhs).
           7.    DM type 2
 currently on insulin 70/30 50U in AM and 50U
   in PM with SSI backup.
   # FEN/lines/tubes: clear liquids, can d/c IJ line
   # Communication: patient, wife, [**Name (NI) 2668**] [**Name (NI) 7276**], [**Telephone/Fax (1) 7277**], cell
   [**Telephone/Fax (1) 7278**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   20 Gauge - [**2145-7-15**] 04:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-07-17 05:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-16**]
   - Continue diuresis with goal of negative 2L for the day
   - Following coags.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-7-15**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-7-16**] 07:42 AM
   Vancomycin - [**2145-7-16**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,700 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2145-7-16**] 05:30 PM
   Heparin Sodium - [**2145-7-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-7-17**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 76 (69 - 91) bpm
   BP: 112/52(71) {95/49(65) - 142/70(92)} mmHg
   RR: 21 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 141.2 kg (admission): 141.7 kg
   Height: 65 Inch
             Total In:
                                                                  2,017 mL
                                                                    361 mL
   PO:
                                                                  1,360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    657 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  4,990 mL
                                                                    520 mL
   Urine:
                                                                  4,990 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,973 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.42/70/91/44/16
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   126 K/uL
   8.4 g/dL
   184 mg/dL
   0.8 mg/dL
   44 mEq/L
   3.8 mEq/L
   15 mg/dL
   89 mEq/L
   135 mEq/L
   27.0 %
   4.3 K/uL
        [image002.jpg]
                             [**2145-7-15**]  01:09 PM
                             [**2145-7-15**]  05:03 PM
                             [**2145-7-15**]  05:54 PM
                             [**2145-7-15**]  10:53 PM
                             [**2145-7-16**]  03:39 AM
                             [**2145-7-16**]  08:12 AM
                             [**2145-7-16**]  07:53 PM
                             [**2145-7-16**]  08:09 PM
                             [**2145-7-17**]  04:35 AM
                             [**2145-7-17**]  04:58 AM
   WBC
   4.6
   4.3
   Hct
   27.4
   27.0
   Plt
   112
   126
   Cr
   0.8
   0.8
   TCO2
   49
   46
   46
   45
   44
   45
   47
   Glucose
   85
   184
   Other labs: PT / PTT / INR:18.3/44.4/1.7, CK / CKMB /
   Troponin-T:38//<0.01, ALT / AST:63/22, Alk Phos / T Bili:57/0.6,
   Amylase / Lipase:56/40, Differential-Neuts:78.6 %, Band:0.0 %,
   Lymph:15.0 %, Mono:5.9 %, Eos:0.4 %, Fibrinogen:142 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:3.5 g/dL, LDH:196 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 LEUKOPENIA
 IMPAIRED SKIN INTEGRITY
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 .H/O DIABETES MELLITUS (DM), TYPE II
   48 y/o M with h/o COPD, CHF s/p AVR, admitted with progressive dyspnea,
   tx with steroids/diuresis, transferred back to MICU on [**7-10**] for
   increased dyspnea, tachypnea, requiring intubation.
   # Respiratory Failure
 chronic severe COPD/CHF; brought back to MICU
   ([**7-10**]) for likely flash pulm edema
   - extubated without difficulty [**2145-7-14**]
   - will complete 7-day course of Vanco/Zosyn for HAP today
 will d/c
   vanc and zosyn after
   - IR to place PICC line on Monday possible
 questionable whether pt
   actually needs PICC line
   - continue steroid taper
 to get 10 mg today (last day)
   - down 4.4 L yesterday
   - continue with current Lasix dose
 goal negative 2L today
   - recheck ABG today
   # Hypotension
   - primary dx was SIRS
 urine cx negative, blood cx pending, sputum cx
   neg (except for rare yeast)
   - pt normotensive overnight
   # Anemia
   - pt
s current Hct (27.4) slightly lower than previous
 overall Hct
   stable, however
   - will continue to monitor Hct
   - heparin gtt and coumadin stopped yesterday [**2-15**] to excessive bleeding
   and blood stool
 will restart heparin gtt now
   # Mechanical aortic valve
   - pt goal INR of 2.5
 3.5
   - however, heparin gtt and coumadin stopped yesterday
   - will restart heparin gtt today with 3600 U bolus and starting rate of
   1600 U
   - Goal PTT of 60-80
   # Lower extremity skin changes and ear/facial wound
   - consistent with chronic venous stasis
 however, some risk for
   infection [**2-15**] skin breakdown
   - continue wound care, lidex, LE elevation
   - follow wound care recs for ear and cheek wounds
 encourage pt to
   refrain from re-injuring these areas
   # H/o Schizophrenia and Psychotic Disorder
   - frequent episodes of leaving hospital AMA; will need to address pt
   capacity if this happens again
   - follow psych recs to restart trasadone at 100mg PO qHS and increase
   by 100 mg each day until at admission dose of 600 mg qHS  (currently on
   300 mg PO qHS)
   - pt somewhat sedate on exam so will keep seroquel at 300 mg qHS
 need
   to sort out when pt was switched from trazodone to seroquel
   # DM type 2
   - continue current insulin regimen of  SSI with 70/30 50U qAM and 50U
   qPM
   # FEN/lines/tubes: Diet: Low sodium / Heart healthy,
   Diabetic/Consistent Carbohydrate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-7-10**] 06:29 AM
   Multi Lumen - [**2145-7-10**] 06:30 AM
   20 Gauge - [**2145-7-15**] 04:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: